US07635715B2
Step H: Preparation of N-((4-Hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((4-hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycinate (30 mg, 73 μmol) was stirred in TFA (5 mL) for 15 minutes. The TFA was then removed under vacuum. The residue was purified by preparatory scale TLC (5% MeOH/DCM eluent) to give the desired product as a light yellow oil (1.6 mg). MS (m/z)=358.4 (M+H)+. Calculated for C16H14F3NO5 357.08.

reactant | 1,1-Dimethylethyl N-((4-hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycinate | 73 μmol, 30 mg | OC1=C(C(C(C2=CC=CC(=C12)C(F)(F)F)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C | C20H22F3NO5
solvent | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((4-Hydroxy-1,1-dimethyl-2-oxo-5-(trifluoromethyl)-naphthalen-3-yl)carbonyl)glycine | 1.6 mg | OC1=C(C(C(C2=CC=CC(=C12)C(F)(F)F)(C)C)=O)C(=O)NCC(=O)O | C16H14F3NO5
